US05212320
To a solution of phenoxazine (2.20 g) in tetrahydrofuran (30 ml) was added potassium tert-butoxide (2.69 g) at 0° C. The mixture was stirred at 0° C. for 10 minutes, and then a solution of methyl 3-(chloromethyl)benzoate (2.44 g) in tetrahydrofuran (20 ml) was added. The mixture was stirred at 25° C. for 30 minutes, and then evaporated. The residue was partitioned between ethyl acetate and 0.1N hydrochloric acid. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was purified by chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (40:1-20:1) and recrystallization from a mixture of hexane and ethyl acetate to give e methyl 3-(phenoxazin-10-ylmethyl)benzoate (1.12 g) as crystals.

reactant | phenoxazine | 2.20 g | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | potassium tert-butoxide | 2.69 g | CC(C)([O-])C.[K+]
reactant | methyl 3-(chloromethyl)benzoate | 2.44 g | ClCC=1C=C(C(=O)OC)C=CC1 | C9H9ClO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 3-(phenoxazin-10-ylmethyl)benzoate | 1.12 g | C1=CC=CC=2OC3=CC=CC=C3N(C12)CC=1C=C(C(=O)OC)C=CC1 | C21H17NO3
